US09260414B2
[(S)-1-((S)-2-{4-[2′-Chloro-4′-({6-[(R)-4-((S)-2,2-dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
A mixture of 6-[(R)-4-((S)-2,2-dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-nicotinic acid (4.54 mg, 0.014 mmol; Preparation 36), HCTU (8.0 mg, 0.019 mmol), N,N-diisopropylethylamine (0.013 mL, 0.072 mmol), and DMA (0.2 mL, 2 mmol) was stirred for 30 min at 50° C. and then ((S)-1-{(S)-2-[4-(4′-amino-2′-chloro-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (7.1 mg, 0.014 mmol; Preparation 37) was added. The reaction mixture was stirred overnight and then HCTU (8 mg) was added and the reaction mixture was heated to 55° C. After 5 h, the reaction mixture was cooled to RT, ethyl acetate and water were added. The organic layer was concentrated under vacuum and purified by preparative HPLC to provide the di-TFA salt of the title compound (1.3 mg). (m/z): [M+H]+ calcd for C43H51ClN8O5 795.37 found 795.4.

reactant | 6-[(R)-4-((S)-2,2-dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-nicotinic acid | 0.014 mmol, 4.54 mg | CC1([C@H](C1)C(=O)N1C[C@H](N(CC1)C1=NC=C(C(=O)O)C=C1)C)C | C17H23N3O3
reactant | HCTU | 0.019 mmol, 8.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.072 mmol, 0.013 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMA | 2 mmol, 0.2 mL | CC(=O)N(C)C | C4H9NO
reactant | ((S)-1-{(S)-2-[4-(4′-amino-2′-chloro-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.014 mmol, 7.1 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)N)Cl)=O | C26H30ClN5O3
reactant | HCTU | 8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(S)-1-((S)-2-{4-[2′-Chloro-4′-({6-[(R)-4-((S)-2,2-dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 1.3 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)NC(=O)C=1C=NC(=CC1)N1[C@@H](CN(CC1)C(=O)[C@@H]1C(C1)(C)C)C)Cl)=O | C43H51ClN8O5
